US03941825
Preparation of Methyl 3-(4-chlorobenzylidene)thiocarbazimidate hydrochloride
The following are prepared in like manner: methyl 3-(4-bromobenzylidene)thiocarbazimidate methosulfate from 4-chlorobenzaldehyde and methyl thiocarbazimidate methosulfate, ethyl 3-(4-cyanobenzylidine)thiocarbazimidate hydroiodide from 4-cyanobenzaldehyde and ethyl thiocarbazimidate hydroiodide, and propyl 3-(3,4-dichlorobenzylidene)thiocarbazimidate hydrobromide from 3,4-dichlorobenzaldehyde and propyl thiocarbazimidate hydrobromide.

reactant | methyl 3-(4-bromobenzylidene)thiocarbazimidate | BrC1=CC=C(C=NNC(SC)=N)C=C1 | C9H10BrN3S
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | methyl thiocarbazimidate | C(NN)(SC)=N | C2H7N3S
reactant | 4-cyanobenzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | ethyl thiocarbazimidate hydroiodide | I.C(NN)(SCC)=N
reactant | propyl 3-(3,4-dichlorobenzylidene)thiocarbazimidate hydrobromide | Br.ClC=1C=C(C=NNC(SCCC)=N)C=CC1Cl
reactant | 3,4-dichlorobenzaldehyde | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | propyl thiocarbazimidate hydrobromide | Br.C(NN)(SCCC)=N
product | Methyl 3-(4-chlorobenzylidene)thiocarbazimidate hydrochloride | Cl.ClC1=CC=C(C=NNC(SC)=N)C=C1 | InChI=1S/C9H10ClN3S.ClH/c1-14-9(11)13-12-6-7-2-4-8(10)5-3-7;/h2-6H,1H3,(H2,11,13);1H
